US09428509B2
5-Chloro-1-(2-methyl-2-((trimethylsilyl)oxy)propyl)-4-nitro-1H-pyrazole
A solution of 1-(2-methyl-2-((trimethylsilyl)oxy)propyl)-4-nitro-1H-pyrazole (1 equiv) in THF (0.41 M) was cooled into −78° C., followed by addition of lithium bis(trimethylsilyl)amide (2.6 equiv). After 1 h, hexachloroethane (1.5 equiv) was added. The reaction mixture was stirred at −78° C. for 2 h then the mixture was quenched with saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate and the organic layer was dried over sodium sulfate, filtered and concentrated. The product was purified by silica gel flash chromatography (15% ethyl acetate in petroleum ether) to afford the title compound as a colorless oil (80.1% yield). 1H NMR (400 MHz, CHLOROFORM-d1) δ ppm 8.12 (s, 1H), 4.06 (s, 2H), 1.51 (s, 6H), 0.01 (s, 9H). MS (ESI) m/z 292.1 [M+H]+.

reactant | 1-(2-methyl-2-((trimethylsilyl)oxy)propyl)-4-nitro-1H-pyrazole | 1 equiv | CC(CN1N=CC(=C1)[N+](=O)[O-])(C)O[Si](C)(C)C | C10H19N3O3Si
reactant | lithium bis(trimethylsilyl)amide | 2.6 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hexachloroethane | 1.5 equiv | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 0.41 M | C1CCOC1 | C4H8O
product | 5-Chloro-1-(2-methyl-2-((trimethylsilyl)oxy)propyl)-4-nitro-1H-pyrazole | 80.1% yield | ClC1=C(C=NN1CC(C)(O[Si](C)(C)C)C)[N+](=O)[O-] | C10H18ClN3O3Si
